US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 17.61 g. of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one and 10.8 g. of 3-aminopyrazole-4-carbonitrile in 75 ml. of glacial acetic acid is heated at reflux temperature for 6 hours. The procedure described in Example 1 is continued to give the product of the example as tan crystals, m.p. 258°-260° C.

reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | 3-aminopyrazole-4-carbonitrile | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N | C12H7N5
